US06313122B1
B. 5-(tert-Butyldimethylsilyloxy)isatoic anhydride
To a mixture of 5-hydroxyisatoic anhydride (1.6 g, 9.0 mmol) and imidazole (670 mg, 9.9 mmol) in N,N-dimethylformamide (10 mL) was added tert-butyldimethylsilyl chloride (1.42 g, 9.45 mmol). After stirring for 2 h, the reaction mixture was diluted with ice and water. After warming to room temperature, the resulting precipitate was filtered and washed with water and hexane. The solid was vacuum dried at 55° C./0.1 mm for 14 h to give 2.55 g (96%) of the title compound as a light gray solid; mp 198-200° C. (dec).

reactant | 5-hydroxyisatoic anhydride | 9.0 mmol, 1.6 g | OC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H5NO4
reactant | imidazole | 9.9 mmol, 670 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 9.45 mmol, 1.42 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-(tert-Butyldimethylsilyloxy)isatoic anhydride | 2.55 g, 96% | [Si](C)(C)(C(C)(C)C)OC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C14H19NO4Si
